US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[3-fluoro-4-(trifluoromethyl)phenyl]prop-2-en-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and 3-fluoro-4-(trifluoromethyl)benzaldehyde (91 ul, 0.633 mmol) similar to Example 18 as a yellow solid (164 mg, 53%). 1H NMR (CDCl3): 7.65-7.60 (m, 2H), 7.52 (d, J=15.9 Hz, 1H), 7.43-7.37 (m, 2H), 7.32 (d, J=3.3 Hz, 1H), 7.15 (dd, J=3.3, 8.7 Hz, 1H), 6.92 (d, J=9.0 Hz, 1H), 4.45-4.32 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 3-fluoro-4-(trifluoromethyl)benzaldehyde | 0.633 mmol, 91 ul | FC=1C=C(C=O)C=CC1C(F)(F)F | C8H4F4O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[3-fluoro-4-(trifluoromethyl)phenyl]prop-2-en-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC(=C(C=C1)C(F)(F)F)F)=O)(F)F | C20H12F10O3
